US05773459
5-Amino-2-chloropyridine(643 mg)in 3 mL of chloroform containing 505 mg of triethylamine was stirred with 853 mg of benzyl chloroformate for 4 hours at 60 degrees C. The mixture was then diluted with 20 mL of chloroform and washed with water, saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate and evaporated to give 700 mg of 5-benzyloxycarbonylamino-2-chloropyridine. 5-Benzyloxy carbonylamino-2-chloropyridine (272 mg) and 163 mg of 2,4-dichlorophenol were stirred overnight at room temperature in 1 mL of dimethylformamide containing 138 mg of potassium carbonate. The reaction mixture was evaporated to dryness under high vacuum and partitioned between ethyl acetate and water. The ethyl acetate layer was washed with water, saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate and evaporated. Hydrogenolysis in methanol over palladium on carbon gave 5-amino-2-(2,4-dichlorophenoxy) pyridine. The 5-amino-2-(2,4-dichlorophenoxy)pyridine was treated with 4-(trifluoromethylmercapto)phenylisocyanate under conditions similar to those in Example 1 to give N-[2-(2,4-dichlorophenoxy)pyrid-5-yl]-N'-[4-trifluoromethyl mercapto)phenyl]urea.

reactant | 5-Amino-2-chloropyridine | 643 mg | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 853 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | chloroform | 3 mL, 505 mg | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-benzyloxycarbonylamino-2-chloropyridine | 700 mg | C(C1=CC=CC=C1)OC(=O)NC=1C=CC(=NC1)Cl | C13H11ClN2O2
